US07750026B2
6-Bromo-3-(6-chloro-3-pyridinyl)-5-fluoro-1H-indazole
Impure (4-bromo-2,5-difluorophenyl)(6-chloro-3-pyridinyl)methanone (0.548 g) in methanol (2 ml) was stirred with 1,1-dimethylethyl hydrazinecarboxylate (0.152 g) and acetic acid (100 μl) for 20 h. The crude mixture was partitioned between sodium bicarbonate and chloroform. The organic layer was separated using a hydrophobic filter tube and the solvent was removed under vacuum. The crude material in THF (1 ml) was treated with DBU (0.358 ml) and heated in a sealed tube in a microwave oven at 150° C. for 30 min. The reaction mixture was cooled and partitioned between ethyl acetate and 0.5M aqueous hydrochloric acid. The organic layer was washed with water then brine then separated using a hydrophobic filter tube. The organic phase was concentrated under vacuum and the residue was purifiedon a silica SPE cartridge (50 g) eluting with cyclohexane/ethyl acetate (100:0 to 0:100) to give the title compound (87 mg).

reactant | (4-bromo-2,5-difluorophenyl)(6-chloro-3-pyridinyl)methanone | 0.548 g | BrC1=CC(=C(C=C1F)C(=O)C=1C=NC(=CC1)Cl)F | C12H5BrClF2NO
reactant | 1,1-dimethylethyl hydrazinecarboxylate | 0.152 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | acetic acid | 100 μl | C(C)(=O)O | C2H4O2
solvent | methanol | 2 ml | CO | CH4O
product | 6-Bromo-3-(6-chloro-3-pyridinyl)-5-fluoro-1H-indazole | 87 mg | BrC1=C(C=C2C(=NNC2=C1)C=1C=NC(=CC1)Cl)F | C12H6BrClFN3
